US07915270B2
1-(5-(4-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-nitrophenyl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (90 mg, 0.136 mmol) and 1-iodo-4-nitrobenzene following General Procedure A. Flash chromatography (5-10% EtOAc/hexanes) yielded the title compound as a yellow oil (67 mg, 100%): 1H NMR (CDCl3, 500 MHz) δ 8.28 (d, 2H, J=9.0 Hz), 7.78 (d, 2H, J=9.0 Hz), 7.48 (s, 1H), 7.27-7.24 (m, 2H), 7.17-7.15 (m, 3H), 4.87 (t, 1H, J=6.0 Hz), 2.59 (t, 2H, J=7.8 Hz), 2.00-1.88 (m, 2H), 1.67-1.58 (m, 2H), 1.40-1.34 (m, 6H), 0.91 (s, 9H), 0.11 (s, 3H), 0.01 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.6, 149.0, 147.1, 142.6, 133.7, 128.3, 128.2, 125.5, 125.1, 124.4, 124.3, 68.6, 36.3, 35.8, 31.3, 29.1, 25.6, 25.6, 25.0, 18.1, −5.0, −5.1.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(4-nitrophenyl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C28H38N2O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.136 mmol, 90 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-iodo-4-nitrobenzene | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
product | 1-(5-(4-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one | 67 mg, 100% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H22N2O4
